US06613942B1
1-Formyl-4-(2-tetrahydropyranyloxyethyl)naphthalene:
A solution of 1-bromo-4-(2-tetrahydropyranyloxyethyl)naphthalene in anhydrous THF (15 mL) under nitrogen was cooled to −78° C. n-Butyl lithium (1.4 mL of a 2.5 M solution in hexane) was added via syringe, and the mixture was stirred at the same temperature for 30 min. DMF (1.1 mL) was added, and the mixture was allowed to reach room temperature. It was diluted with satd. NH4Cl solution (10 mL), extracted with ether (3×10 ml), dried (MgSO4) and concentrated. Flash chromatography using hexane/ethyl acetate 5:1 as eluent provided 408 mg (54%) of a colorless oil.

reactant | 1-bromo-4-(2-tetrahydropyranyloxyethyl)naphthalene | BrC1=CC=C(C2=CC=CC=C12)CCOC1OCCCC1 | C17H19BrO2
reactant | n-Butyl lithium | C(CCC)[Li]
reactant | DMF | 1.1 mL | CN(C)C=O | C3H7NO
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-Formyl-4-(2-tetrahydropyranyloxyethyl)naphthalene | 408 mg, 54% | C(=O)C1=CC=C(C2=CC=CC=C12)CCOC1OCCCC1 | C18H20O3
